US09328096B2
Ethyl 5-(2,4-dichloro-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzamido)-1-phenyl-1H-pyrazole-3-carboxylate
To a solution of ethyl 5-(5-bromo-2,4-dichlorobenzamido)-1-phenyl-1H-pyrazole-3-carboxylate (Preparation 16, 615 mg, 1.273 mmol) in dioxane (22 mL) was added 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) (485 mg, 1.90 mmol), potassium acetate (250 mg, 2.54 mmol) and [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) (47 mg, 0.064 mmol). The reaction was degassed and heated to reflux for 2 hours. Further [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) (47 mg) was added and reflux continued for another 16 hours. The reaction was cooled and taken on directly to the next step as a solution of the title compound in dioxane.

reactant | ethyl 5-(5-bromo-2,4-dichlorobenzamido)-1-phenyl-1H-pyrazole-3-carboxylate | 1.273 mmol, 615 mg | BrC=1C(=CC(=C(C(=O)NC2=CC(=NN2C2=CC=CC=C2)C(=O)OCC)C1)Cl)Cl | C19H14BrCl2N3O3
reactant | 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) | 1.90 mmol, 485 mg | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | potassium acetate | 2.54 mmol, 250 mg | C(C)(=O)[O-].[K+]
solvent | dioxane | 22 mL | O1CCOCC1 | C4H8O2
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) | 0.064 mmol, 47 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | Ethyl 5-(2,4-dichloro-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzamido)-1-phenyl-1H-pyrazole-3-carboxylate | ClC1=C(C(=O)NC2=CC(=NN2C2=CC=CC=C2)C(=O)OCC)C=C(C(=C1)Cl)B1OC(C(O1)(C)C)(C)C | C25H26BCl2N3O5
